L1 (VDD VOUT2) inductor
L0 (VDD VOUT1) inductor
C3 (net26 VOUT2) capacitor
C2 (net26 VOUT1) capacitor
? Missing component
C0 (net14 VOUT1) capacitor
R1 (VB1 net13) resistor
R0 (VCONT1 net14) resistor
M3 (VOUT2 VB3 VSS VSS) nmos4
M2 (VOUT1 VB2 VSS VSS) nmos4
M1 (VOUT2 net13 VOUT2 VSS) nmos4
M0 (VOUT1 net13 VOUT1 VSS) nmos4
